US04939140
3-(5,7-Dihydroxy-2-benzothiazolylmethyl)-4-oxo-3H-phthalazin-1-ylacetic acid
A mixture of 3-(5,7-dimethoxy-2-benzothiazolylmethyl)-4-oxo-3H-phthalazin-1-yl acetic acid (0.5 g) and aqueous hydrobromic acid (10 ml, 48%) was refluxed for 4 hours. The hot solution was cooled to room temperature and than poured onto ice-water (50 ml). The resulting pink colored solid was filtered, washed with water (20 ml) and dried. The dried solid was crystallized from methanol to yield the product (0.31 g; m.p. 184° C.).

reactant | 3-(5,7-dimethoxy-2-benzothiazolylmethyl)-4-oxo-3H-phthalazin-1-yl acetic acid | 0.5 g | COC=1C=C(C2=C(N=C(S2)CN2N=C(C3=CC=CC=C3C2=O)CC(=O)O)C1)OC | C20H17N3O5S
solvent | hydrobromic acid | 10 ml | Br | BrH
product | 3-(5,7-Dihydroxy-2-benzothiazolylmethyl)-4-oxo-3H-phthalazin-1-ylacetic acid | OC=1C=C(C2=C(N=C(S2)CN2N=C(C3=CC=CC=C3C2=O)CC(=O)O)C1)O | C18H13N3O5S
